US07968538B2
[1-(5-Chloro-2,3-dimethoxy-phenyl)-ethyl]-(2-methanesulfonyl-5-piperazin-1-yl-phenyl)-amine
[1-(5-Chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine (100 g, 0.26 mol), piperazine (444 g, 5.16 mol), Hunig's base (0.45 L, 2.6 mol) and ACN (0.75 L) were heated at 80° C. for 13.5 hours (a solution formed upon heating to 67° C.). Upon cooling, a large amount of solids precipitated. Filtration, washing of the filter cake with ACN, and concentration afforded a solid which was treated with 1 L EtOAc. The EtOAc layers were combined and washed with 3×1 L water, dried over sodium sulfate, and concentrated to give 26 g of product. The solid collected by filtration was suspended in 0.5 L DCM and washed with 0.5 L water. The water was back-extracted with 0.25 L DCM. The DCM layers were combined, washed with 7×0.5 L water, dried over sodium sulfate and concentrated. 65 g of the resulting white solid were suspended in TBME and left o/n. The mixture was filtered, re-triturated in 210 mL TBME, filtered, washed with 70 mL TBME and air-dried to afford 59.4 g (50.7%) of product as a white solid.

reactant | [1-(5-Chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine | 0.26 mol, 100 g | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC)OC | C17H19ClFNO4S
reactant | piperazine | 5.16 mol, 444 g | N1CCNCC1 | C4H10N2
reactant | Hunig's base | 2.6 mol, 0.45 L | CCN(C(C)C)C(C)C | C8H19N
reactant | ACN | 0.75 L | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | [1-(5-Chloro-2,3-dimethoxy-phenyl)-ethyl]-(2-methanesulfonyl-5-piperazin-1-yl-phenyl)-amine | 26 g | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C)OC)OC | C21H28ClN3O4S
